US07714010B2
b) N-[5-(4-Fluoro-2-hyroxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-3-methyl-benzamide
N-[5-(4-Fluoro-2-methoxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-3-methyl-benzamide (5 mg) is suspended in a BBr3 solution in CH2Cl2 (1 M; 33 μl) and stirred at RT for 10 h. After addition of hydrochloric acid (200 μl; 1 N) the mixture is stirred at RT for another 1 h and then evaporated to dryness. The crude material is purified by preparative RP-HPLC eluted with MeCN/water to yield the desired compound (3.2 mg).

reactant | N-[5-(4-Fluoro-2-methoxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-3-methyl-benzamide | 5 mg | FC1=CC(=C(CN2C(C(C=3C=C4C(=CC23)NC(=N4)NC(C4=CC(=CC=C4)C)=O)(C)C)=O)C=C1)OC | C27H25FN4O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | 1 N, 200 μl | Cl | ClH
solvent | CH2Cl2 | 1 M, 33 μl | C(Cl)Cl | CH2Cl2
product | N-[5-(4-Fluoro-2-hyroxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-3-methyl-benzamide | 3.2 mg | FC1=CC(=C(CN2C(C(C=3C=C4C(=CC23)NC(=N4)NC(C4=CC(=CC=C4)C)=O)(C)C)=O)C=C1)O | C26H23FN4O3
